US09163021B2
N-(5-{1-[2-(tert-Butyl-dimethyl-silanyloxy)-1,1-dimethyl-ethyl]-7-fluoro-1H-pyrrolo[3,2-c]pyridine-3-carbonyl}-pyridin-3-yl)-2-(4-chloro-phenyl)-acetamide
To a solution of (5-amino-pyridin-3-yl)-{1-[2-(tert-butyl-dimethyl-silanyloxy)-1,1-dimethyl-ethyl]-7-fluoro-1H-pyrrolo[3,2-c]pyridin-3-yl}-methanone (Preparation 29, 35 mg, 70 μmol), (4-chloro-phenyl)-acetic acid (13 mg, 79 μmol) and DIPEA (31 μL, 237 μmol) in THF (3 mL), T3P (151 μL, 237 μmol) was added and the mixture stirred at 25° C. for 18 hours. The reaction was evaporated under reduced pressure, the residue partitioned between water and ethyl acetate, the organic extracts washed with saturated sodium bicarbonate solution, dried over sodium sulphate, evaporated in vacuo and triturated with pentane-ether to afford the title compound as an off white solid (74%, 35 mg).

reactant | (5-amino-pyridin-3-yl)-{1-[2-(tert-butyl-dimethyl-silanyloxy)-1,1-dimethyl-ethyl]-7-fluoro-1H-pyrrolo[3,2-c]pyridin-3-yl}-methanone | 70 μmol, 35 mg | NC=1C=C(C=NC1)C(=O)C1=CN(C2=C1C=NC=C2F)C(CO[Si](C)(C)C(C)(C)C)(C)C | C23H31FN4O2Si
reactant | (4-chloro-phenyl)-acetic acid | 79 μmol, 13 mg | ClC1=CC=C(C=C1)CC(=O)O | C8H7ClO2
reactant | DIPEA | 237 μmol, 31 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | T3P | 237 μmol, 151 μL | C(CC)P1(OP(OP(O1)(=O)CCC)(=O)CCC)=O | C9H21O6P3
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | N-(5-{1-[2-(tert-Butyl-dimethyl-silanyloxy)-1,1-dimethyl-ethyl]-7-fluoro-1H-pyrrolo[3,2-c]pyridine-3-carbonyl}-pyridin-3-yl)-2-(4-chloro-phenyl)-acetamide | C(C)(C)(C)[Si](OCC(C)(C)N1C=C(C=2C=NC=C(C21)F)C(=O)C=2C=C(C=NC2)NC(CC2=CC=C(C=C2)Cl)=O)(C)C | C31H36ClFN4O3Si
